US06582351B1
To a solution of 2-chloro-5-cyano-3-nitropyridine (3.5 g)(obtained according to International Patent Application No.WO9410171) in N,N-dimethylformamide (35 mL) was added trans-4-aminocyclohexanol (4.39 g) at 0° C. The mixture was stirred at room temperature under nitrogen atmosphere for 45 minutes and diluted with ethyl acetate. The mixture was washed with water (3 times) and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The residual solid was washed with diethyl ether to give 5-cyano-2-(trans-4-hydroxycyclohexylamino)-3-nitropyridine (3.38 g) as a yellow sold.

reactant | 2-chloro-5-cyano-3-nitropyridine | 3.5 g | ClC1=NC=C(C=C1[N+](=O)[O-])C#N | C6H2ClN3O2
reactant | trans-4-aminocyclohexanol | 4.39 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
solvent | N,N-dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-cyano-2-(trans-4-hydroxycyclohexylamino)-3-nitropyridine | 3.38 g | C(#N)C=1C=C(C(=NC1)N[C@@H]1CC[C@H](CC1)O)[N+](=O)[O-] | C12H14N4O3
